US06235771B1
To a solution of 4-bromo-3-chlorophenol (10.0 g), 3-ethoxypropanol (6.0 g) and triphenylphosphine (15.2 g) in tetrahydrofuran (50 ml) was added dropwise under nitrogen atmosphere at 0° C. diethylazodicarbonate (40% toluene solution, 25.2 g) for 15 minutes, and the mixture was stirred at room temperature for 2 hours and concentrated under reduced pressure. To the residue was added diethylether, and insoluble materials were filtered off. The filtrate was washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography (ethyl acetate/hexane 1:5) and distilled under reduced pressure (1.5 mmHg, 190° C.) to give colorless oil of 4-bromo-3-chloro-(3-ethoxypropoxy)benzene (11.2 g).

reactant | 4-bromo-3-chlorophenol | 10.0 g | BrC1=C(C=C(C=C1)O)Cl | C6H4BrClO
reactant | 3-ethoxypropanol | 6.0 g | C(C)OCCCO | C5H12O2
reactant | triphenylphosphine | 15.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-bromo-3-chloro-(3-ethoxypropoxy)benzene | 11.2 g | BrC1=C(C=C(C=C1)OCCCOCC)Cl | C11H14BrClO2
